US07145030B2
To a solution of 2.88 g (20 mmol) of methyl 3-ketohexanoate in 10 ml methanol, 36 mg (0.004 mmol) RuCl2(R)-binap was added and stirred in an autoclave under a hydrogen pressure of 100 atm at 30° C. for 66 hours. After concentration and distillation, 2.24 g (15.4 mmol, 99% ee) of methyl (S)-3-hydroxyhexanoate was obtained. The condition of chiral HPLC is the following. Column, CHIRALPAK OD-H manufactured by Daicel Chemical Industries, Ltd.; Eluate, Hexane:2-propanol=90:10; flow rate, 1.0 mL/min; Wavelength of detection, 210 nm; Temperature, 25° C.; Retention time, 5 min (R) and 7 min (S).

reactant | methyl 3-ketohexanoate | 20 mmol, 2.88 g | O=C(CC(=O)OC)CCC | C7H12O3
solvent | methanol | 10 ml | CO | CH4O
product | methyl (S)-3-hydroxyhexanoate | 15.4 mmol, 2.24 g | O[C@H](CC(=O)OC)CCC | C7H14O3
